US06610723B2
3-(4-Chloro-3-methyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride (1:1)
The title compound, MS: m/e=298.3 (M+H+) was obtained as a white solid (73% yield) by the reaction of 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine with 2-(4-chloro-3-methyl-phenyl)-4,4,5,5-tetramethyl[1,3,2]-dioxaborolane.

reactant | 3-bromo-5-(2-methyl-imidazol-1-yl-methyl)-pyridine | BrC=1C=NC=C(C1)CN1C(=NC=C1)C | C10H10BrN3
reactant | 2-(4-chloro-3-methyl-phenyl)-4,4,5,5-tetramethyl[1,3,2]-dioxaborolane | ClC1=C(C=C(C=C1)B1OC(C(O1)(C)C)(C)C)C | C13H18BClO2
product | 3-(4-Chloro-3-methyl-phenyl)-5-(2-methyl-imidazol-1-yl-methyl)-pyridine Hydrochloride | Cl.ClC1=C(C=C(C=C1)C=1C=NC=C(C1)CN1C(=NC=C1)C)C | InChI=1S/C17H16ClN3.ClH/c1-12-7-15(3-4-17(12)18)16-8-14(9-19-10-16)11-21-6-5-20-13(21)2;/h3-10H,11H2,1-2H3;1H
